US06248740B1
Production of N-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester
1.90 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.38 g of N-(6-chloroimidazo-[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester were dissolved in 15 ml of 1-methyl-2-pyrrolidone; 0.841 ml of N-ethyldiisopropylamine was added, followed by stirring in an oil bath (90-100° C.) for 24 hours. After cooling, ice water and saline were added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (95:5:1). The desired fraction was collected and recrystallized from ethyl acetate to yield 1.28 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.90 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-(6-chloroimidazo-[1,2-b]pyridazine-2-carbonyl)glycine ethyl ester | 1.38 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)Cl)C1)=O | C11H11ClN4O3
reactant | N-ethyldiisopropylamine | 0.841 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1-methyl-2-pyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | N-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester | 1.28 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C32H38N6O4
